US07838483B2
The reaction of m-tolunitrile (1 g, 8.54 mmol) and hydroxylamine (0.78 cm3, 12.8 mmol, 1.5 eq) in EtOH (8.5 cm3) was performed in the same manner as in the preparation of N′-hydroxybenzimidamide, to give the product N′-hydroxy-3-methylbenzimidamide (1.25 g, 97.7%) as a white solid, mp 92° C. (lit 88-90° C.).

reactant | m-tolunitrile | 8.54 mmol, 1 g | C1(=CC(=CC=C1)C#N)C | C8H7N
reactant | hydroxylamine | 12.8 mmol, 0.78 cm3, 1.5 eq | NO | H3NO
reactant | N′-hydroxybenzimidamide | ON=C(C1=CC=CC=C1)N | C7H8N2O
solvent | EtOH | 8.5 cm3 | CCO | C2H6O
product | N′-hydroxy-3-methylbenzimidamide | 1.25 g, 97.7% | ON=C(C1=CC(=CC=C1)C)N | C8H10N2O
